US07592477B2
Step b) Formation of 3-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}-methyl)-benzoic acid
To a solution of 3-({[4-(trifluoromethyl)benzyl]amino}methyl)benzoic acid hydrochloride (4.00 g, 11.6 mmol) and 1N aqueous solution of NaOH (25 mL) in dioxane (25 mL) at 0° C. was added the di-tert-butyl dicarbonate (2.78 g, 12.7 mmol) and the resulting reaction mixture was stirred at 0° C. for 30 min. The solvents were evaporated off. The residue was diluted with a 1N aqueous solution of HCl (35 mL) and extracted with EtOAc (3×30 mL). The combined organic layers were dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash chromatography over silica gel (DCM/MeOH 95/5) to give the title compound as a yellow oil (3.05 g, 64%). 1H NMR (CDCl3, 300 MHz) δ 8.03 (d, 1H, J=7.1 Hz), 7.94 (br s, 1H), 7.59 (d, 2H, J=7.9 Hz), 7.45 (m, 2H), 7.33 (m, 2H), 4.50 (br s, 2H), 4.42 (br s, 2H), 1.50 (s, 9H). M−(LC/MS(ESI)): 408 HPLC (Condition A), Rt: 5.41 min (HPLC purity: 98.2%).

reactant | 3-({[4-(trifluoromethyl)benzyl]amino}methyl)benzoic acid hydrochloride | 11.6 mmol, 4.00 g | Cl.FC(C1=CC=C(CNCC=2C=C(C(=O)O)C=CC2)C=C1)(F)F
reactant | NaOH | 25 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 12.7 mmol, 2.78 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 3-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}-methyl)-benzoic acid | 3.05 g, 64% | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC=1C=C(C(=O)O)C=CC1 | C21H22F3NO4
